US07119109B2
a) (3-Hydroxyhexyl)methylcarbamic acid, 1,1-dimethylethyl ester
To an ice-cooled stirred solution of methyl-(3-oxopropyl)carbamic acid, 1,1-dimethylethyl ester (11.0 g, 59 mmol) in dry tetrahydrofuran (120 ml) under nitrogen was added a 2M solution of n-propylmagnesium chloride in ether (36 ml). The resulting mixture was stirred at 0° C. for 30 minutes, then allowed to warm to room temperature with sting over 20 h, and quenched by dropwise addition of saturated aqueous ammonium chloride. The supernatant solution was decanted from the white solids and concentrated to dryness to give the title compound (11.5 g) as an oil.

reactant | methyl-(3-oxopropyl)carbamic acid, 1,1-dimethylethyl ester | 59 mmol, 11.0 g | CN(C(OC(C)(C)C)=O)CCC=O | C9H17NO3
reactant | n-propylmagnesium chloride | C(CC)[Mg]Cl
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | ether | 36 ml | CCOCC | C4H10O
product | (3-Hydroxyhexyl)methylcarbamic acid, 1,1-dimethylethyl ester | 11.5 g | OC(CCN(C(OC(C)(C)C)=O)C)CCC | C12H25NO3
